US06288120B1
(3-Formyl-phenyl)-acetic acid ethyl ester.
To a solution of (3-cyano-phenyl)-acetic acid ethyl ester (4.8 g, 25.4 mmol) in 75% aqueous formic acid was added nickel-aluminum alloy (4.6 g). The mixture was heated at reflux (100° C.) for 2.25 h. The reaction mixture was cooled and was filtered through Celite with the aid of boiling EtOH. The filtrate was diluted with H2O and the product was extracted into CHCl3 (3×). The organic solution was stirred with saturated NaHCO3 solution until a pH of 8 was attained. The organic solution was dried over MgSO4, filtered, and concentrated. The product was purified by flash chromatography (5:1 hexanes/EtOAc) to afford the title compound (3.33 g). 1H NMR (400 MHz, CDCl3) δ 7.76-7.79 (m, 2H), 7.47-7.57 (m, 2H), 4.15 (q, 2H), 3.69 (s, 2H), 1.25 (t, 3H); MS 193 (M+1).

reactant | (3-cyano-phenyl)-acetic acid ethyl ester | 25.4 mmol, 4.8 g | C(C)OC(CC1=CC(=CC=C1)C#N)=O | C11H11NO2
reactant | formic acid | C(=O)O | CH2O2
catalyst | nickel-aluminum alloy | 4.6 g | [Al].[Ni]
product | (3-Formyl-phenyl)-acetic acid ethyl ester | 3.33 g | C(C)OC(CC1=CC(=CC=C1)C=O)=O | C11H12O3
